US05869501
7-[[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile obtained in Reference Example 2 (150 mg) was dissolved in 2 ml of dimethylformamide, 178 mg of ethyl chloroformate and 271 mg of potassium carbonate were added to the solution, and the mixture was stirred at room temperature for 3.5 hours. The reaction solution was evaporated, and the resulting residue was purified by silica gel column chromatography using ethyl acetate:hexane (2:8) as the eluent to give 169 mg of ethyl N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]carbamate.

reactant | 7-[[4-[(1-t-Butoxycarbonyl-4-piperidyl)oxy]anilino]methyl]-2-naphthalenecarbonitrile | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(NCC2=CC=C3C=CC(=CC3=C2)C#N)C=C1 | C28H31N3O3
reactant | ethyl chloroformate | 178 mg | ClC(=O)OCC | C3H5ClO2
reactant | potassium carbonate | 271 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | ethyl N-[4-[(1-t-butoxycarbonyl-4-piperidyl)oxy]phenyl]-N-[(7-cyano-2-naphthyl)methyl]carbamate | 169 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC=C(C=C1)N(C(OCC)=O)CC1=CC2=CC(=CC=C2C=C1)C#N | C31H35N3O5
